US06664247B2
To a solution of 4-hydroxy-2-phenoxymethylquinazoline (2 g, 7.93 mmol) in phosphorus oxychloride (10 mL) is added-tripropylamine (3.02 mL, 15.8 mmol) and the reaction mixture is heated for 30 minutes at 110° C. The excess phosphorus oxychloride is evaporated in vacuo, the residue is poured on ice cold aqueous NaHCO3 and extracted with ethyl acetate. The organic layer is washed with brine, dried, filtered and evaporated. The resulting residue is purified on flash chromatography (SiO2, hexane/AcOEt gradient) to give 4-chloro-2-phenoxymethylquinazoline.

reactant | 4-hydroxy-2-phenoxymethylquinazoline | 7.93 mmol, 2 g | OC1=NC(=NC2=CC=CC=C12)COC1=CC=CC=C1 | C15H12N2O2
reactant | tripropylamine | 15.8 mmol, 3.02 mL | C(CC)N(CCC)CCC | C9H21N
reactant | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-phenoxymethylquinazoline | ClC1=NC(=NC2=CC=CC=C12)COC1=CC=CC=C1 | C15H11ClN2O
